

***********************************************************
* CDL produced by pvsBuildNetlist on Jul 15 21:54:35 2026 *
***********************************************************


*pvsViewList = auCdl schematic
*pvsStopList = ("auCdl")
*pvsSimName  = auCdl



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt unit_capacitor SEL_VIN SEL_VIN_N SEL_VREF_N SEL_VREF_N_N SEL_VREF_P
+  SEL_VREF_P_N VDD VIN VREF_N VREF_P VSS top_plate
*PVSCELL netlisted from NS_SAR_Analog unit_capacitor schematic
  CC0 top_plate bottom_plate cap_mim_m3__base l=4u w=4u m=1
  MNM0 VIN SEL_VIN bottom_plate VSS nfet_01v8 M=1 L=150n W=1.5u
  MNM1 bottom_plate SEL_VIN_N bottom_plate VSS nfet_01v8 M=1 L=150n W=1.5u
  MNM2 bottom_plate SEL_VREF_P VREF_P VSS nfet_01v8 M=1 L=150n W=1.5u
  MNM3 bottom_plate SEL_VREF_N VREF_N VSS nfet_01v8 M=1 L=150n W=1.5u
  MPM0 bottom_plate SEL_VIN_N VIN VDD pfet_01v8 M=1 L=150n W=1.5u
  MPM1 bottom_plate SEL_VIN bottom_plate VDD pfet_01v8 M=1 L=150n W=1.5u
  MPM2 VREF_P SEL_VREF_P_N bottom_plate VDD pfet_01v8 M=1 L=150n W=1.5u
  MPM3 VREF_N SEL_VREF_N_N bottom_plate VDD pfet_01v8 M=1 L=150n W=1.5u
.ends unit_capacitor


***********************************************************
*             Completed at Jul 15 21:54:35 2026           *
***********************************************************
